US05627202
[1-(4-Cyanobenzyl)-1H-imidazol-5-yl]acetic acid .
LiCl (0.416 g, 1.47 mmol), pyrrolidin-2(S)-ylmethyl]-3(S)-ethyl-prolyl-methionine isopropyl ester hydrochloride (Step I) (0.63 g, 1.33 mmol), HOOBT (0.239 g, 1.47 mmol), and EDC (0.281 g, 1.47 mmol) were dissolved in degassed DMF (20 mL) with stirring at room temperature, N-methylmorpholine (0.8 mL, 5.32 mmol) was added to achieve a pH of 7, and stirring was continued overnight. The reaction mixture was concentrated to remove most of the DMF, and the residue was partitioned between EtOAc and aq satd NaHCO3 solution. The aq layer was washed with EtOAc, the organics combined, washed with brine and dried (MgSO4). Filtration and concentration to dryness gave the title compound after chromatography on silica gel eluting with CH2Cl2 :CH3OH, 95:5.

reactant | LiCl | 1.47 mmol, 0.416 g | [Li+].[Cl-]
reactant | 3(S)-ethyl-prolyl-methionine isopropyl ester hydrochloride | 1.33 mmol, 0.63 g | Cl.C(C)(C)OC([C@@H](NC([C@H]1NCC[C@@H]1CC)=O)CCSC)=O
reactant | HOOBT | 1.47 mmol, 0.239 g | C1=CC=C2C(=C1)C(=O)N(N=N2)O | C7H5N3O2
reactant | EDC | 1.47 mmol, 0.281 g
reactant | N-methylmorpholine | 5.32 mmol, 0.8 mL | CN1CCOCC1 | C5H11NO
reactant | DMF | 20 mL | CN(C)C=O | C3H7NO
product | [1-(4-Cyanobenzyl)-1H-imidazol-5-yl]acetic acid | C(#N)C1=CC=C(CN2C=NC=C2CC(=O)O)C=C1 | C13H11N3O2
